US07547691B2
(B). Preparation of 4-(6-bromobenzo[b]thiophen-2-yl)-2-chloro-5-methylpyrimidine
A solution of 6-bromobenzo[b]thiophene (5.00 g, 23.5 mmol) in THF (50 mL) is cooled to −70° C. Lithium diisopropylamide (12.9 mL of a 2 M solution in heptane/THF/ethylbenzene, 25.8 mmol) is added dropwise over 5 minutes. After stirring for 40 minutes at −75° C., the mixture is removed from the cold bath and allowed to warm to 0° C. over 15 minutes and then recooled to −35° C. 2-Chloro-5-methylpyrimidine (3.02 g, 23.5 mmol) is added to the mixture as a solid in one portion and the resultant mixture is allowed to stir for 30 minutes at −35° C. Acetic acid (1.55 g, 25.8 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (5.60 g, 24.7 mmol) are added in one portion to the mixture before it is allowed to stir at room temperature for 16 hours. Then the mixture is concentrated under reduced pressure, suspended in warm dichloromethane, eluted through a pad of silica in dichloromethane (1 L) and concentrated under reduced pressure. The crude material is subjected to chromatography on silica gel, eluting with dichloromethane in hexanes 50-100%. The resulting material is sonicated in ether (100 mL) and filtered to provide the title compound as an orange solid (3.08 g, 39% yield).

reactant | 6-bromobenzo[b]thiophene | 23.5 mmol, 5.00 g | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-Chloro-5-methylpyrimidine | 23.5 mmol, 3.02 g | ClC1=NC=C(C=N1)C | C5H5ClN2
reactant | Acetic acid | 25.8 mmol, 1.55 g | C(C)(=O)O | C2H4O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 24.7 mmol, 5.60 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
product | 4-(6-bromobenzo[b]thiophen-2-yl)-2-chloro-5-methylpyrimidine | 3.08 g, 39% yield | BrC=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1 | C13H8BrClN2S
